US08383650B2
C: Piperidine-1,3,5-tricarboxylic acid 1-tert-butyl ester 3,5-dimethyl ester
A solution of piperidine-3,5-dicarboxylic acid dimethyl ester (5.4 g, 26.8 mmol) in CH2Cl2 (55 mL) is treated with Boc2O (6.4 g, 29.5 mmol) and the reaction is stirred at rt overnight. The reaction is quenched with 0.1N aq. HCl and the organic phase is washed with 0.1N aq HCl. The combined aqueous phases are extracted 2 times with CH2Cl2/MeOH (9/1) before the combined organic phases are dried over Na2SO4, filtered and evaporated. The resulting residue is purified by flash chromatography on silica gel (eluent: CH2Cl2/MeOH 95:5) to give the title compound as a yellow solid. MS (LC-MS): 302 [M+H]+. TLC, Rf (CH2Cl2/MeOH 95:5)=0.5.

reactant | piperidine-3,5-dicarboxylic acid dimethyl ester | 26.8 mmol, 5.4 g | COC(=O)C1CNCC(C1)C(=O)OC | C9H15NO4
reactant | Boc2O | 29.5 mmol, 6.4 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 55 mL | C(Cl)Cl | CH2Cl2
product | Piperidine-1,3,5-tricarboxylic acid 1-tert-butyl ester 3,5-dimethyl ester | COC(=O)C1CN(CC(C1)C(=O)OC)C(=O)OC(C)(C)C | C14H23NO6
